US05520906
b) 2,4-Bis(4-camphylidenemethylene-anilino)-6-ethoxy-1,3,5-triazine
2,4-Bis(4-camphylidenemethylene-anilino)-6-chloro-1,3,5-triazine is reacted with sodium ethanolate analogously to the instructions of Example 2. The desired product forms to the extent of 43%.

reactant | 2,4-Bis(4-camphylidenemethylene-anilino)-6-chloro-1,3,5-triazine | C12(C(CC(CC1)C2(C)C)=C=C2CC=C(NC1=NC(=NC(=N1)NC1=CCC(C=C1)=C=C1C3(CCC(C1)C3(C)C)C)Cl)C=C2)C | C37H44ClN5
reactant | sodium ethanolate | C(C)[O-].[Na+]
product | 2,4-Bis(4-camphylidenemethylene-anilino)-6-ethoxy-1,3,5-triazine | C12(C(CC(CC1)C2(C)C)=C=C2CC=C(NC1=NC(=NC(=N1)NC1=CCC(C=C1)=C=C1C3(CCC(C1)C3(C)C)C)OCC)C=C2)C | C39H49N5O
